US07425634B2
(3c) 2,3-dimethyl-4-(2-(2-propyl-1,3-dioxolan-2-yl)ethoxy)pyridine1-oxide
To a dimethylsulfoxide (22.5 ml) solution of the 2-(2-propyl-1,3-dioxolan-2-yl)ethanol (1.5 g, 9.35 mmol) obtained in the step (3b), sodium hydride, in oil (561 mg, 14 mmol as the content was regarded as 60%) and 4-chloro-2,3-dimethylpyridine1-oxide (1.33 g, 8.42 mmol) were added in a nitrogen stream and stirred at 60° C. for 2 hours. The mixture was allowed to stand at room temperature for 3 days and concentrated under reduced pressure. The residue was suspended in tetrahydrofuran. NH silica gel was added to the resultant mixture, which was then concentrated to dryness and subjected to NH silica gel column chromatography (elution solvent: n-heptane/ethyl acetate/methanol=1/1/0→0/1/0→0/10/1) to obtain the title compound (1.53 g, yield: 58.2%) as a light brown oil.

reactant | 2-(2-propyl-1,3-dioxolan-2-yl)ethanol | 9.35 mmol, 1.5 g | C(CC)C1(OCCO1)CCO | C8H16O3
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloro-2,3-dimethylpyridine1-oxide | 8.42 mmol, 1.33 g | ClC1=C(C(=[N+](C=C1)[O-])C)C | C7H8ClNO
solvent | dimethylsulfoxide | 22.5 ml | CS(=O)C | C2H6OS
product | 2,3-dimethyl-4-(2-(2-propyl-1,3-dioxolan-2-yl)ethoxy)pyridine1-oxide | 1.53 g, yield: 58.2% | CC1=[N+](C=CC(=C1C)OCCC1(OCCO1)CCC)[O-] | C15H23NO4
